US08609692B2
2,2-dimethylchroman-4-one
The title compound was prepared according to the procedure of Example 1A, substituting 1-(2-hydroxyphenyl)ethanone for 1-(5-fluoro-2-hydroxyphenyl)ethanone and using propan-2-one. MS (DCI/NH3) m/z 194 (M+NH4)+.

reactant | 1-(5-fluoro-2-hydroxyphenyl)ethanone | FC=1C=CC(=C(C1)C(C)=O)O | C8H7FO2
reactant | NH3 | N | H3N
reactant | propan-2-one | CC(C)=O | C3H6O
product | 2,2-dimethylchroman-4-one | CC1(OC2=CC=CC=C2C(C1)=O)C | C11H12O2
